US03947413
4-Thiazolyl diazomethyl ketone, 0.1 g, is treated in 1 ml ethanol at 0° with HCl gas for a few seconds. Dilution with ether and scratching produces a copious white ppt which is filtreed and washed 3x with ether, taken up in water, the pH made to 7 with K2HPO4, and extracted 3x with ether. The ether solution is dried with MgSO4, filtered and evaporated, affording 77 mg 4-thiazolyl chloromethyl ketone. IR (CHCl3), 5.85μ. NMR (δ, CDCl3): 4.95d, J=1, CH2Cl; 8.4m, 8.95m, J=1, H-2 and H-5.

reactant | 4-Thiazolyl diazomethyl ketone | [N+](=[N-])=CC(=O)C=1N=CSC1 | C5H3N3OS
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-thiazolyl chloromethyl ketone | 77 mg | ClCC(=O)C=1N=CSC1 | C5H4ClNOS
